US06002008
N-{4-[(3-Bromophenyl)amino]-3-cyano-8-dimethylaminomethyl-6-quinolinyl}-2-butynamide
To a stirred mixture of 2-butynoic acid (0.42 g, 5.0 mmol) and N-methylmorpholine (0.66 ml, 6.0 mmol) in 4.0 ml of THF at 0° C. was added i-butyl chloroformate (0.52 ml, 4.0 mmol)during 10 m. After 10 m a solution of 6-amino-4-[(3-bromophenyl)amino]-8-dimethylaminomethyl -3-quinolinecarbonitrile (0.79 g, 2.0 mmol) in 4.0 ml of THF was added during 60 s. The mixture was warmed to 25° C., stirred for 2 h, and diluted with water. The pH was adjusted to 9-10 with potassium carbonate, and the resulting solid was filtered off, washed with water, stirred with methylene chloride, and filtered. The latter filtrate was concentrated to give a solid which was subjected to chromatography on silica gel with methylene chloride-ethyl acetate-methanol-triethylamine to give an amber solid; mass spectrum (electrospray, m/e) M+H 462, 464.

reactant | 2-butynoic acid | 5.0 mmol, 0.42 g | C(C#CC)(=O)O | C4H4O2
reactant | N-methylmorpholine | 6.0 mmol, 0.66 ml | CN1CCOCC1 | C5H11NO
reactant | i-butyl chloroformate | 4.0 mmol, 0.52 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-bromophenyl)amino]-8-dimethylaminomethyl -3-quinolinecarbonitrile | 2.0 mmol, 0.79 g | NC=1C=C2C(=C(C=NC2=C(C1)CN(C)C)C#N)NC1=CC(=CC=C1)Br | C19H18BrN5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | methylene chloride ethyl acetate methanol triethylamine | C(Cl)Cl.C(C)(=O)OCC.CO.C(C)N(CC)CC
product | N-{4-[(3-Bromophenyl)amino]-3-cyano-8-dimethylaminomethyl-6-quinolinyl}-2-butynamide | BrC=1C=C(C=CC1)NC1=C(C=NC2=C(C=C(C=C12)NC(C#CC)=O)CN(C)C)C#N | C23H20BrN5O
